US06815091B2
In a 5 liter-three necked flask, 67.55 g of 6-bromo-1,2,3,4-tetrahydronaphthalene and 1480 ml of dry tetrahydrofuran (THF) were placed and cooled to −70 to −68° C. on a dry ice-acetone bath in a dry nitrogen gas atmosphere. At that temperature, to the mixture, 200 ml of 1.6 M-butyllithium solution in hexane was added dropwise, followed by stirring for 2 hours at −67° C. or below. To borate in 435 ml of dry THF was added dropwise at −70°to −68° C., followed by stirring for 2 hours at −67° C. or below. The reaction mixture was gradually warmed to room temperature and left standing overnight. The resultant reaction mixture was gradually added dropwise to a mixture of 108 ml of HCl and 438 ml of water kept at 10° C. or below, followed by stirring for 1 hour at that temperature. Thereafter, the mixture was subjected to extraction with toluene. The organic layer was washed with water, followed by distilling-off of the solvent under reduced pressure to obtain a residue. The residue was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=2/1) and recrystallized from hexane to obtain 30.4 g of 1,2,3,4-tetrahydronaphthalene-6-boronic acid (Yield: 54.0%).

reactant | 6-bromo-1,2,3,4-tetrahydronaphthalene | 67.55 g | BrC=1C=C2CCCCC2=CC1 | C10H11Br
reactant | borate | B([O-])([O-])[O-]
reactant | HCl | 108 ml | Cl | ClH
reactant | water | 438 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 435 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1480 ml | O1CCCC1 | C4H8O
product | 1,2,3,4-tetrahydronaphthalene-6-boronic acid | 30.4 g, Yield: 54.0% | C1CCCC2=CC(=CC=C12)B(O)O | C10H13BO2
